US08466186B2
(a) 1-(5-Amino-2-chloro-4-nitro-phenyl)-pyrrolidine-3-carbonitrile
Potassium carbonate (2.93 g, 21.3 mmol) was added to a mixture of pyrrolidine-3-carbonitrile hydrochloride (1.41 g, 10.6 mmol) and 4,5-dichloro-2-nitroaniline (2.00 g, 9.7 mmol) in DMF (8 mL). The reaction mixture was stirred at 120° C. overnight, diluted with EtOAc and washed with water and brine. The organic layer was dried over Na2SO4, concentrated and the crude was purified by chromatography to give the sub-title compound.

reactant | Potassium carbonate | 21.3 mmol, 2.93 g | C([O-])([O-])=O.[K+].[K+]
reactant | pyrrolidine-3-carbonitrile hydrochloride | 10.6 mmol, 1.41 g | Cl.N1CC(CC1)C#N
reactant | 4,5-dichloro-2-nitroaniline | 9.7 mmol, 2.00 g | ClC1=CC(=C(N)C=C1Cl)[N+](=O)[O-] | C6H4Cl2N2O2
solvent | DMF | 8 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 1-(5-Amino-2-chloro-4-nitro-phenyl)-pyrrolidine-3-carbonitrile | NC=1C(=CC(=C(C1)N1CC(CC1)C#N)Cl)[N+](=O)[O-] | C11H11ClN4O2
